US07507733B2
Step B] 3-Chloro-N-(2-cyclobutyl-pyrimidin-4-yl)-2-methyl-benzenesulfonamide
This compound was obtained according to example 2, step B] from 2-cyclobutyl-pyrimidin-4-ylamine (0.15 g), and 3-chloro-2-methyl-benzenesulfonyl chloride (0.27 g) as a light brown solid (47 mg). MS (ESI): 338.1 (MH+).

reactant | 2-cyclobutyl-pyrimidin-4-ylamine | 0.15 g | C1(CCC1)C1=NC=CC(=N1)N | C8H11N3
reactant | 3-chloro-2-methyl-benzenesulfonyl chloride | 0.27 g | ClC=1C(=C(C=CC1)S(=O)(=O)Cl)C | C7H6Cl2O2S
product | 3-Chloro-N-(2-cyclobutyl-pyrimidin-4-yl)-2-methyl-benzenesulfonamide | ClC=1C(=C(C=CC1)S(=O)(=O)NC1=NC(=NC=C1)C1CCC1)C | C15H16ClN3O2S
